US06528543B1
A mixture of 3-cyclopentyl-2-phenyl-propionic acid ethyl ester (1.70 g, 7.06 mmol) and methyl urea (1.04 mg, 14.13 mmol) in a solution of magnesium methoxide in methanol (7.4 wt %, 130.3 mL, 21.18 mmol) was refluxed at 100° C. for 24 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 1-(3-cyclopentyl-2-phenyl-propionyl)-3-methyl-urea (1.21 mg, 62.4%) as a white solid: mp 145-147° C.; EI-HRMS m/e calcd for C16H22N2O2 (M+) 274.1681, found 274.1682.

reactant | 3-cyclopentyl-2-phenyl-propionic acid ethyl ester | 7.06 mmol, 1.70 g | C(C)OC(C(CC1CCCC1)C1=CC=CC=C1)=O | C16H22O2
reactant | methyl urea | 14.13 mmol, 1.04 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 21.18 mmol, 130.3 mL | CO | CH4O
product | 1-(3-cyclopentyl-2-phenyl-propionyl)-3-methyl-urea | 1.21 mg, 62.4% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC=CC=C1 | C16H22N2O2
